US07872021B2
7-[[(phenylmethoxy)carbonyl]amino]-1H-indole-2-carboxylic acid, ethyl ester
0.8 g (3.925 mmol) of 7-amino-1H-indole-2-carboxylic acid ethyl ester are mixed with 16 ml of tetrahydrofurane and 1.08 g (7.83 mmol) of potassium carbonate. The reaction medium is cooled to 0° C. and 0.615 ml (4.30 mmol) of benzyl chloroformate are added. Agitation is performed for 1 hour 30 minutes at 0° C., and then the temperature of the mixture is allowed to rise again to ambient temperature over one hour. Then 30 ml of water are added and the product is extracted using ethyl acetate. The combined organic phases are dried on magnesium sulfate, filtered and concentrated under reduced pressure. The evaporation residue is purified by silica column chromatography eluting with the help of a methylcyclohexane/ethyl acetate mixture (90/1; v/v). The expected product is obtained in the form of white crystals with a yield of 61%.

reactant | 7-amino-1H-indole-2-carboxylic acid ethyl ester | 3.925 mmol, 0.8 g | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)N | C11H12N2O2
reactant | tetrahydrofurane | 16 ml | O1CCCC1 | C4H8O
reactant | potassium carbonate | 7.83 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 4.30 mmol, 0.615 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 30 ml | O | H2O
product | 7-[[(phenylmethoxy)carbonyl]amino]-1H-indole-2-carboxylic acid, ethyl ester | yield of 61% | C1(=CC=CC=C1)COC(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C19H18N2O4
